US09145407B2
[2-Hydroxy-5-(trifluoromethoxy)phenyl]boronic acid
A suspension of 2-methoxy-5-(trifluoromethoxy)phenylboronic acid (23.0 g, 97.5 mmol) in dichloromethane (140 mL) was cooled to 0° C. and boron tribromide (9.4 mL, 10 mmol) was added drop-wise over 30 min. After stirring for 3 hours, additional boron tribromide (2 mL) was added. The reaction mixture was poured into ice water and stirred for 20 min. The dichloromethane was removed in vacuo and the white solid collected by filtration and washed with water before drying in vacuo to afford the title compound (20.8 g).

reactant | 2-methoxy-5-(trifluoromethoxy)phenylboronic acid | 97.5 mmol, 23.0 g | COC1=C(C=C(C=C1)OC(F)(F)F)B(O)O | C8H8BF3O4
reactant | boron tribromide | 10 mmol, 9.4 mL | B(Br)(Br)Br | BBr3
reactant | boron tribromide | 2 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 140 mL | ClCCl | CH2Cl2
product | [2-Hydroxy-5-(trifluoromethoxy)phenyl]boronic acid | 20.8 g | OC1=C(C=C(C=C1)OC(F)(F)F)B(O)O | C7H6BF3O4
